US07491713B2
Step B: tert-Butyl 4-(2,4-dioxoimidazolidin-1-yl)piperidine-1-carboxylate
Potassium cyanate (31 mg, 0.384 mmol) was added to a solution of tert-butyl 4-[(2-ethoxy-2-oxoethyl)amino]piperidine-1-carboxylate (100 mg, 0.384 mmol) in water (2 mL). Acetic acid was then added to adjust pH of reaction to 4-5 and the mixture was heated at 40 □C. After 16 h, the reaction was cooled to ambient temperature and purified by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) to give the title compound (33 mg).

reactant | Potassium cyanate | 0.384 mmol, 31 mg | [O-]C#N.[K+]
reactant | tert-butyl 4-[(2-ethoxy-2-oxoethyl)amino]piperidine-1-carboxylate | 0.384 mmol, 100 mg | C(C)OC(CNC1CCN(CC1)C(=O)OC(C)(C)C)=O | C14H26N2O4
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 2 mL | O | H2O
product | tert-Butyl 4-(2,4-dioxoimidazolidin-1-yl)piperidine-1-carboxylate | 33 mg | O=C1N(CC(N1)=O)C1CCN(CC1)C(=O)OC(C)(C)C | C13H21N3O4
